US07371747B2
trans-2-Bromomethyl-N-cyanomethylcyclohexanecarboxamide (262 mg, 1 mmol) and cesium carbonate (331 mg, 1.02 mmol) were weighed into a 15 mL test tube fitted with a stir bar and vented cap and then acetone (3 mL) and 4-fluorobenzenethiol (106 μL, 1.01 mmol) were added sequentially to the test tube. The reaction mixture was stirred at 50° C. overnight and then diluted with hot acetone (7 mL). The reaction mixture was filtered through Celite™ and the filter funnel and Celite™ were washed with hot acetone (25 mL). The combined filtrate and wash were concentrated on a rotary evaporator and product was purified from the residue by chromatography on 40 cm3 of silica gel in a 2×13 cm column with 9:1 dichloromethane:ethyl acetate eluent. The product fractions were concentrated on a rotary evaporator and the residue dried under high vacuum to give trans-N-cyanomethyl-2-(4-fluorophenylsulfanylmethyl)-cyclohexanecarboxamide as a waxy white solid. 1H NMR (DMSO-d6): δ 8.64 (1H, t), 7.33 (2H, m), 7.14 (2H, m), 4.13 (2H, d), 2.96 (1H, dd), 2.57 (1H, dd), 2.05 (2H, m), 1.70 (4H, m), 1.15 (4H, m). MS [ESI, (M−H)−] m/z=305.0 amu.

reactant | trans-2-Bromomethyl-N-cyanomethylcyclohexanecarboxamide | 1 mmol, 262 mg | BrC[C@H]1[C@@H](CCCC1)C(=O)NCC#N | C10H15BrN2O
reactant | cesium carbonate | 1.02 mmol, 331 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-fluorobenzenethiol | 1.01 mmol, 106 μL | FC1=CC=C(C=C1)S | C6H5FS
solvent | acetone | 7 mL | CC(=O)C | C3H6O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | trans-N-cyanomethyl-2-(4-fluorophenylsulfanylmethyl)-cyclohexanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CSC1=CC=C(C=C1)F | C16H19FN2OS
